US04252815
Example 41. 2,3-Epoxy-1-[(1-phenyl-5-tetrazolyl)oxy]-propane
Sodium hydride (11.9 g., 0.050 mole), washed free of mineral oil with hexane, was stirred in 1.8 l. of DMF at ice-water temperature while a solution of 72.3 g (0.40 mole) of 1-phenyl-5-chlorotetrazole and 29.6 g. (0.04 mole) of glycidol in 1.8 l. of DMF was added dropwise during 4 hours. The solution was allowed to stand at 25° overnight (16 hours), diluted with 12 l. of H2O and extracted with ethyl acetate. The extracts were washed with water, dried (Na2SO4), and evaporated to give 75.7 g. of product, m.p. 77°-81°. Recrystallization from MeOH-i-PrOH gave 55.8 g., m.p. 83°-84°.

reactant | Sodium hydride | 0.050 mole, 11.9 g | [H-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-phenyl-5-chlorotetrazole | 0.40 mole, 72.3 g | C1(=CC=CC=C1)N1N=NN=C1Cl | C7H5ClN4
reactant | glycidol | 0.04 mole | C1C(O1)CO | C3H6O2
solvent | hexane | CCCCCC | C6H14
product | 2,3-Epoxy-1-[(1-phenyl-5-tetrazolyl)oxy]-propane | O1C(COC2=NN=NN2C2=CC=CC=C2)C1 | C10H10N4O2
